US07253186B2
2-(2-Bromopropyl)-1,3-dioxane (121JP80)
Adapting a procedure of Büchi and Wüest (J. Org. Chem, 1969, 34, 1122–1123), crotonaldehyde (3 g, 43 mmol) was added dropwise to cone. aq. HBr (5.2 g, 64 mmol) over 5 min at 5° C. under air atmosphere. After 15 min of stirring at 5° C. during which time the mixture changed from colourless to brownish, 1,3-propanediol (8.1 g, 107 mmol) was added and the reaction was stirred at 5° C. for further 0.5 h before allowing it warn to rt, and finally stirring it at rt for 2 h. The crude reaction mixture was then n-heptane extracted (2×200 mL), the combined n-heptane extracts were Na2SO4 dried, evaporated in vacuo and 121JP80 was isolated by Kugelrohr distillation (75° C., 0.18 mmHg) to obtain 124 mg (1.4%) of the title compound as a colourless liquid.

reactant | crotonaldehyde | 43 mmol, 3 g | C(\C=C\C)=O | C4H6O
reactant | HBr | 64 mmol, 5.2 g | Br | BrH
reactant | 1,3-propanediol | 107 mmol, 8.1 g | C(CCO)O | C3H8O2
product | 2-(2-Bromopropyl)-1,3-dioxane | 124 mg, 1.4% | BrC(CC1OCCCO1)C | C7H13BrO2
